US08378095B2
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (0.120 g, 0.55 mmol), 1-(2-chloroethyl)piperidine hydrochloride (0.100 g, 0.54 mmol), potassium carbonate (0.226 g, 1.64 mmol) and 18-crown-6 (0.072 g, 0.27 mmol) in MeCN (3 mL) was heated in the microwave at 180° C. for 10 minutes. The mixture was diluted with MeOH and a small amount of water and purified by SPE using a MP-TsOH resin (1000 mg) cartridge. The solvent was removed in vacuo to afford 4-(2-(piperidin-1-yl)ethoxy)phenylboronic acid (0.129 g, 0.52 mmol, 95%) which was used without further purification. LCMS (1) Rt: 1.55; m/z (ES+) 250.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.55 mmol, 0.120 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.54 mmol, 0.100 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 1.64 mmol, 0.226 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.27 mmol, 0.072 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | MeCN | 3 mL | CC#N | C2H3N
solvent | MeOH | CO | CH4O
product | 4-(2-(piperidin-1-yl)ethoxy)phenylboronic acid | 0.52 mmol, 0.129 g, 95% | N1(CCCCC1)CCOC1=CC=C(C=C1)B(O)O | C13H20BNO3
